US07923562B2
8-Bromo-2-methylquinolin-7-yl benzenesulfonate (SO185).
A mixture of 8-bromo-2-methylquinolin-7-ol (1.10 g, 4.62 mmol) and N,N-diisopropylethylamine (1.19 g, 9.24 mmol) were dissolved in anhydrous DCM (10 mL), and the solution was cooled to 0° C. Benzenesulfonyl chloride (0.90 g, 5.10 mmol) in 5 mL DCM was added over 10 min, and the reaction mixture was stirred for 14 h at room temperature under argon. Solvent was removed in vacuo, and residue was dissolved in EtOAc and washed twice with saturated aq. NaHCO3 and then dried over anhydrous Na2SO4. Solvent was removed in vacuo, and the residue was purified by SiO2 column chromatography (Hexanes/EtOAc=1/1) to yield SO185 as a white solid (1.70 g, 4.49 mmol, 97% yield). 13CNMR (ppm, 500 MHz, CDCl3, 298 K) δ 161.588, 148.067, 145.802, 136.573, 135.924, 134.834, 129.444, 128.907, 128.029, 126.122, 123.236, 121.950, 118.038, 25.922. 1HNMR (ppm, 400 MHz, CDCl3, 298 K) δ: 8.049 (d, 1H, J=8.4 Hz), 7.976 (m, 1H), 7.958 (m, 1H), 7.758 (d, 1H, J=8.8 Hz), 7.701-7.657 (m, 1H), 7.599 (d, 1H, J=8.8 Hz), 7.554-7.507 (m, 2H), 7.346 (d, 1H, J=8.0 Hz), 2.785 (s, 3H). MS-ESI (m/z): [M+H]+ calculated for C16H13BrNO3S, 378.0 (79Br) and 380.0 (81Br); found 378.0 (79Br) and 379.9 (81Br).

reactant | 8-bromo-2-methylquinolin-7-ol | 4.62 mmol, 1.10 g | BrC=1C(=CC=C2C=CC(=NC12)C)O | C10H8BrNO
reactant | N,N-diisopropylethylamine | 9.24 mmol, 1.19 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Benzenesulfonyl chloride | 5.10 mmol, 0.90 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-Bromo-2-methylquinolin-7-yl benzenesulfonate | 4.49 mmol, 1.70 g, 97% yield | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=C2C=CC(=NC2=C1Br)C | C16H12BrNO3S
